US07754737B2
Step 6. (3,3-difluorocyclobutyl)methyl 4-bromobenzenesulfonate
A round bottom flask was charged with (3,3-difluorocylobutyl)methanol (1.0 g, 8.2 mmol, 1.0 equiv), 4-bromobenzenesulphonyl chloride (2.2 g, 8.6 mmol, 1.05 equiv) and CH2Cl2 (50 mL). The mixture was cooled to 0° C. and triethylamine (2.07 g, 2.89 mL, 20.5 mmol, 2.5 equiv) was added via syringe. The mixture stirred for 12 h with warming to rt. After this time 1.0 M aq HCl (50 mL) was added. The layers were separated, the organic layer was extracted with CH2Cl2 (50 mL) and the combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated. The compound was purified by flash chromatography on silica, eluting with 0-30% EtOAc in hexanes. This afforded (3,3-difluorocyclobutyl)methyl 4-bromobenzenesulfonate (2.7 g, 95%) as an off white solid.

reactant | (3,3-difluorocylobutyl)methanol | 8.2 mmol, 1.0 g, 1.0 equiv | FC1(CC(C1)CO)F | C5H8F2O
reactant | 4-bromobenzenesulphonyl chloride | 8.6 mmol, 2.2 g, 1.05 equiv | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | triethylamine | 20.5 mmol, 2.89 mL, 2.07 g, 2.5 equiv | C(C)N(CC)CC | C6H15N
reactant | HCl | 1.0 M, 50 mL | Cl | ClH
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (3,3-difluorocyclobutyl)methyl 4-bromobenzenesulfonate | BrC1=CC=C(C=C1)S(=O)(=O)OCC1CC(C1)(F)F | C11H11BrF2O3S
